US06730681B2
A solution of 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline (0.10 g, 0.23 mmol), triethylamine (1 ml, 7.2 mmol) and 1-cyclopropylmethylpiperazin-2-one.HCl (0.22 g, 1.15 mmol) in dry N,N-dimethylformamide (2 ml) was stirred at 50° C. under nitrogen for 18 h. The mixture was cooled, then diluted with water (15 ml) and extracted with EtOAc (2×75 ml). The combined organic extracts were washed with brine, dried over MgSO4 and evaporated to give a brown oil. Purification by preparative thin layer chromatography eluting with CH2Cl2:MeOH (93:7) gave 1-cyclopropylmethyl-4-[3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazin-2-one (0.020 g, 21%) as a white solid. δH (400 MHz; CDCl3) 0.26-0.31 (2H, m), 0.52-0.58 (2H, m), 0.99-1.05 (1H, m), 3.37 (2H, d, J=7), 3.77 (2H, dd, J=5 and 5), 3.97 (2H, dd, J=5 and 5), 4.39 (2H, s), 7.20-7.31 (2H, m), 7.35-7.41 (1H, m), 7.66 (1H, dd, J=7 and 7), 7.94 (1H, dd, J=8 and 8), 8.02-8.11 (2H, m), 8.72 (1H, d, J=8); m/z (ES+) 417 (M+H+).

reactant | 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline | 0.23 mmol, 0.10 g | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)OS(=O)(=O)C2=CC=C(C=C2)C | C22H15FN4O3S
reactant | triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-cyclopropylmethylpiperazin-2-one | C1(CC1)CN1C(CNCC1)=O | C8H14N2O
reactant | HCl | 1.15 mmol, 0.22 g | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 1-cyclopropylmethyl-4-[3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazin-2-one | 0.020 g, 21% | C1(CC1)CN1C(CN(CC1)C1=NC=2N(C3=CC=CC=C13)N=NC2C2=C(C=CC=C2)F)=O | C23H21FN6O
